US03996374
A solution of 5.2 ml. of isopropylamine in 25 ml. of methanol is treated with 4 ml. of 5-N methanolic hydrochloric acid. To this there are added successively under an atmosphere of argon at 20°-25° C. 3.85 g. of 5-chloro-2-(4-oxopentyl)-3-phenylisoindole-1-carboxylic acid ethyl ester and 0.4 g. of sodium cyanoborohydride and the mixture is then stirred for 48 hours at room temperature. While cooling, the mixture is made acidic with concentrated hydrochloric acid, stirred for an additional 1 hour at room temperature and subsequently evaporated to dryness under reduced pressure. The residue is made alkaline with 1-N sodium hydroxide with addition of ice and is extracted with ether. The extract is dried over sodium sulfate, concentrated, and the oily residue chromatographed on 200 g. of silica gel with a mixture of ethyl acetate/tetrahydrofuran/triethylamine (40:10:1). The homogeneous fractions are combined, concentrated, dissolved in ether and treated with an excess of ethereal hydrochloric acid. The precipitated hydrochloride is removed by filtration and washed with ether. After recrystallization from acetone, there is obtained 5-chloro-2-[4-(isopropylamino)pentyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride having a melting point of 183°-185° C. (decomposition).

reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | hydrochloric acid | Cl | ClH
reactant | 5-chloro-2-(4-oxopentyl)-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCC(C)=O | C22H22ClNO3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 5-chloro-2-[4-(isopropylamino)pentyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCC(C)NC(C)C | InChI=1S/C25H31ClN2O2.ClH/c1-5-30-25(29)24-21-14-13-20(26)16-22(21)23(19-11-7-6-8-12-19)28(24)15-9-10-18(4)27-17(2)3;/h6-8,11-14,16-18,27H,5,9-10,15H2,1-4H3;1H
